US07538112B2
Step 9: 2-(4-Fluorobenzyl)-10-hydroxy-4,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione
A mixture of 10-(benzyloxy)-2-(4-fluorobenzyl)-4,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo-[2,3-d]pyridazine-1,9(2H,6H)-dione (17 mg, 38 μmol) and Pearlman's catalyst (6.0 mg, 20% Pd(OH)2 on carbon) in ethanol (20 mL) was stirred under an atmosphere of hydrogen gas (1 atm) at room temperature for 30 minutes. The reaction mixture was diluted with acetonitrile and filtered through a pad of Celite. The filtrate was concentrated under vacuum, and the residue triturated with a mixture of methanol and diethyl ether. A solid precipitate was obtained by filtration to provide the titled compound.

reactant | 10-(benzyloxy)-2-(4-fluorobenzyl)-4,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo-[2,3-d]pyridazine-1,9(2H,6H)-dione | 38 μmol, 17 mg | C(C1=CC=CC=C1)OC1=C2N(C=3C(=NN(C(C31)=O)CC3=CC=C(C=C3)F)C)CCN(C2=O)C | C25H23FN4O3
catalyst | Pearlman's catalyst | 6.0 mg | [OH-].[OH-].[Pd+2]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(4-Fluorobenzyl)-10-hydroxy-4,8-dimethyl-7,8-dihydropyrazino-[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | FC1=CC=C(CN2N=C(C3=C(C2=O)C(=C2N3CCN(C2=O)C)O)C)C=C1 | C18H17FN4O3
